US04385182
2 kg (8.4 mols) of 3,5-dinitrophthalic anhydride and 897 g (8.4 mols) of p-toluidine in 6.2 l of glacial acetic acid are kept under reflux for 3 hours. After cooling, the mixture is filtered, the residue is rinsed with 2 l of water and then suspended in 25 l of water, and the product is filtered off and dried at 100° C. in vacuo. 2,339 g (85% of theory) of N-(p-toluyl)-3,5-dinitrophthalimide are obtained; melting point: 182°-3° C.

reactant | 3,5-dinitrophthalic anhydride | 8.4 mols, 2 kg | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC(=C1)[N+](=O)[O-] | C8H2N2O7
reactant | p-toluidine | 8.4 mols, 897 g | NC1=CC=C(C=C1)C | C7H9N
solvent | acetic acid | 6.2 l | C(C)(=O)O | C2H4O2
product | N-(p-toluyl)-3,5-dinitrophthalimide | 2,339 g, 85% | C1(=CC=C(C=C1)N1C(C=2C(C1=O)=C(C=C(C2)[N+](=O)[O-])[N+](=O)[O-])=O)C | C15H9N3O6
